US08877794B2
54.2 1-Methyl-1H-imidazole-4-sulfonic acid (2-{3-[3-benzyl-1-(2,2,2-trifluoro-ethyl)azetidin-3-yl]-phenoxy}-ethyl)-amide
To a solution of N-(2-(3-(3-benzyl-1-(2,2,2-trifluoroacetyl)azetidin-3-yl)phenoxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide (60.7 mg, 0.116 mmol) in dry tetrahydrofuran (2 ml) was added a 2M solution of borane dimethyl sulfide complex (0.290 ml, 0.581 mmol) and stirred at 60° C. for 3 h. Quenched by the dropwise addition of water and refluxed for an other 2 h, the solution was saponified with NaOH (2N) and extracted three times with dichloromethane, dried over MgSO4, filtered, evaporated and purified by flash silica gel chromatography on 4 g SiO2-cartridge using 5% MeOH in dichloromethane to afford 18.4 mg of a white solid.

reactant | N-(2-(3-(3-benzyl-1-(2,2,2-trifluoroacetyl)azetidin-3-yl)phenoxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide | 0.116 mmol, 60.7 mg | C(C1=CC=CC=C1)C1(CN(C1)C(C(F)(F)F)=O)C=1C=C(OCCNS(=O)(=O)C=2N=CN(C2)C)C=CC1 | C24H25F3N4O4S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-Methyl-1H-imidazole-4-sulfonic acid (2-{3-[3-benzyl-1-(2,2,2-trifluoro-ethyl)azetidin-3-yl]-phenoxy}-ethyl)-amide | 18.4 mg | C(C1=CC=CC=C1)C1(CN(C1)CC(F)(F)F)C=1C=C(OCCNS(=O)(=O)C=2N=CN(C2)C)C=CC1 | C24H27F3N4O3S
